US05688815
2.0 g of acetic acid 2-[3-hydroxy-2-(4-fluorobenzyl)-4-oxo-4H-pyridin-1-yl]-ethyl ester dissolved in 20 ml of methanol, and 5 ml of a 6M solution of ammonia in methanol are added. The reaction solution is stirred at room temperature for 18 hours, the product precipitating in the form of a thick crystal mass. Filtering, washing with methanol and drying yield 3-hydroxy-1-(2-hydroxy-ethyl)-2-(4-fluorobenzyl)-1H-pyridin-4-one in the form of colourless crystals. M.p.: 225°-231° C., decomp. from 190° C.

reactant | acetic acid 2-[3-hydroxy-2-(4-fluorobenzyl)-4-oxo-4H-pyridin-1-yl]-ethyl ester | 2.0 g | OC1=C(N(C=CC1=O)CCOC(C)=O)CC1=CC=C(C=C1)F | C16H16FNO4
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
product | 3-hydroxy-1-(2-hydroxy-ethyl)-2-(4-fluorobenzyl)-1H-pyridin-4-one | OC1=C(N(C=CC1=O)CCO)CC1=CC=C(C=C1)F | C14H14FNO3
